US04127584
2-Phenyl-3-chloro-1,2,5-thiadiazolium Chloride
2-Phenyl-1,2,5-thiadiazole-3-one (3.1 g., 0.02 mole) was refluxed for 4 minutes in phosphorus oxychloride (20 ml.) and then cooled slowly. Ether (60-100 ml.) was added and the precipitate was filtered in a stream of nitrogen and washed well with anhydrous ether. The precipitate was then triturated with acetonitrile, refiltered and rewashed with acetonitrile and dried in a stream of nitrogen, m.p. (dec.) 110° C.

reactant | 2-Phenyl-1,2,5-thiadiazole-3-one | 0.02 mole, 3.1 g | C1(=CC=CC=C1)N1SN=CC1=O | C8H6N2OS
reactant | Ether | 60-100 ml | CCOCC | C4H10O
reactant | phosphorus oxychloride | 20 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 2-Phenyl-3-chloro-1,2,5-thiadiazolium Chloride | [Cl-].C1(=CC=CC=C1)[N+]=1SN=CC1Cl | InChI=1S/C8H6ClN2S.ClH/c9-8-6-10-12-11(8)7-4-2-1-3-5-7;/h1-6H;1H/q+1;/p-1
